US07960412B2
Synthesized from 2-[6-(tert-butyldimethylsilyloxy)-1,2,3,4-tetrahydronaphthalen-2-yl]-5-methoxyphenylamine and 4-(2-azepan-1-ylethoxy)benzoyl chloride hydrochloride according to an analogous synthetic method to Example 152, [4-(2-azepan-1-ylethoxy)benzyl]{2-[6-(tert-butyldimethylsilyloxy)-1,2,3,4-tetrahydronaphthalen-2-yl]-5-methoxyphenyl}amine (448 mg) was used according to an analogous synthetic method to Example 36 to provide [4-(2-azepan-1-ylethoxy)benzyl]{2-[6-(tert-butyldimethylsilyloxy)-1,2,3,4-tetrahydronaphthalen-2-yl]-5-methoxyphenyl}ethylamine (392 mg). This compound (390 mg) was used according to an analogous synthetic method to Example 325 described below to provide the title compound (254 mg).

reactant | 2-[6-(tert-butyldimethylsilyloxy)-1,2,3,4-tetrahydronaphthalen-2-yl]-5-methoxyphenylamine | [Si](C)(C)(C(C)(C)C)OC=1C=C2CCC(CC2=CC1)C1=C(C=C(C=C1)OC)N | C23H33NO2Si
reactant | 4-(2-azepan-1-ylethoxy)benzoyl chloride hydrochloride | Cl.N1(CCCCCC1)CCOC1=CC=C(C(=O)Cl)C=C1
reactant | [4-(2-azepan-1-ylethoxy)benzyl]{2-[6-(tert-butyldimethylsilyloxy)-1,2,3,4-tetrahydronaphthalen-2-yl]-5-methoxyphenyl}amine | 448 mg | N1(CCCCCC1)CCOC1=CC=C(CNC2=C(C=CC(=C2)OC)C2CC3=CC=C(C=C3CC2)O[Si](C)(C)C(C)(C)C)C=C1 | C38H54N2O3Si
product | [4-(2-azepan-1-ylethoxy)benzyl]{2-[6-(tert-butyldimethylsilyloxy)-1,2,3,4-tetrahydronaphthalen-2-yl]-5-methoxyphenyl}ethylamine | 392 mg | N1(CCCCCC1)CCOC1=CC=C(CNCCC2=C(C=CC(=C2)OC)C2CC3=CC=C(C=C3CC2)O[Si](C)(C)C(C)(C)C)C=C1 | C40H58N2O3Si
